US06835732B2
4-Hydroxy-piperidine-1-carboxylic acid [4-methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-yl]-amide
To a suspension of 0.070 g of 4-methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-ylamine (0.00025 Mol) in THF (4 ml) at room temperature were added 0.054 ml N-ethyl-diisopropylamine (0.00031 Mol) and 0.001 g DMAP. 0.025 g of triphosgen (0.000085 Mol) were added and the whole mixture was heated to 70° C. for 1 hr. Then another 0.054 ml N-ethyl-diisopropylamine (0.00031 Mol) and 0.031 g of 4-hydroxy-piperidin (0.00031 Mol) were added and the reaction mixture was stirred at 70° C. for 1.5 hrs. Upon cooling to room temperature a precipitation formed, which was filtered and washed with THF. The filtrate was evaporated and the residue was subjected to column chromatography (silicagel, CH2Cl2/MeOH 9:1). The title product was obtained as a white solid (11%); F.p.: 145-150° C.

reactant | 4-methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-ylamine | 0.00025 Mol, 0.070 g | COC1=CC=C(C2=C1N=C(S2)N)C=2N=C(SC2)C | C12H11N3OS2
reactant | N-ethyl-diisopropylamine | 0.00031 Mol, 0.054 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | triphosgen | 0.000085 Mol, 0.025 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-ethyl-diisopropylamine | 0.00031 Mol, 0.054 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxy-piperidin | 0.00031 Mol, 0.031 g | OC1CCNCC1 | C5H11NO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.001 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Hydroxy-piperidine-1-carboxylic acid [4-methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-yl]-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCC(CC2)O)C=2N=C(SC2)C | C18H20N4O3S2
